US07834035B2
A mixture of N-Hydroxy-4-methoxy-benzamidine (0.20 g, 1.50 mmol), 1-Boc-piperidine-3-carboxylic acid (0.34 g, 1.50 mmol), HOBT (0.23 g, 1.50 mmol) and EDCI.HCl (0.43 g, 2.25 mmol) in dioxane (2.5 ml) was stirred at R.T for 7 H. After this time the mixture was heated at 80° C. overnight with the carousel Radley's. The mixture was concentrated. The organic layer was washed with water, NaOH 1N and water. The organic layer was dried over Na2SO4, filtered and evaporated. The crude product was purified by flash chromatography (DCM/MeOH: 99/1) to afford 0.39 mg (72%) of 3-[3-(4-Methoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidine-1-carboxylic acid tert-butyl ester as white solid.

reactant | N-Hydroxy-4-methoxy-benzamidine | 1.50 mmol, 0.20 g | ONC(C1=CC=C(C=C1)OC)=N | C8H10N2O2
reactant | 1-Boc-piperidine-3-carboxylic acid | 1.50 mmol, 0.34 g | C(=O)(OC(C)(C)C)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | HOBT | 1.50 mmol, 0.23 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 2.25 mmol, 0.43 g | CCN=C=NCCCN(C)C.Cl
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
product | 3-[3-(4-Methoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.39 mg, 72% | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=NC(=NO1)C1=CC=C(C=C1)OC | C19H25N3O4
